US08236826B2
Production of 4-(5-nitropyridin-2-yloxy)phenylamine
To a solution of sodium hydroxide (730 mg, 18.25 mmol) in methanol was added 4-aminophenol (2.00 g, 18.32 mmol). After the resulting mixture was made to dissolve, methanol was evaporated under reduced pressure. To the residue was added DMF (20 mL), and then 2-chloro-5-nitropyridine (2.91 g, 18.35 mmol). The reaction solution was stirred for 1.5 hours at 70° C., and then concentrated under reduced pressure. Water was added to the residue, and the resulting solution was extracted with ethyl acetate. The ethyl acetate layer was washed with brine. The ethyl acetate layer was dried over anhydrous magnesium sulfate, after which solvent was evaporated, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1), to thereby yield 3.37 g of the title compound.

reactant | sodium hydroxide | 18.25 mmol, 730 mg | [OH-].[Na+]
reactant | 4-aminophenol | 18.32 mmol, 2.00 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 2-chloro-5-nitropyridine | 18.35 mmol, 2.91 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | methanol | CO | CH4O
product | 4-(5-nitropyridin-2-yloxy)phenylamine | [N+](=O)([O-])C=1C=CC(=NC1)OC1=CC=C(C=C1)N | C11H9N3O3
